US07674789B2
N-{3-[8-(2,6-difluorophenyl)-2-(methylamino)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide
The compound N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide, (0.054 g, 0.1 mmol) was dissolved in THF (20 mL) and a 2M solution of methylamine in THF (1 mL) was added. The mixture was stirred at room temperature for 4 days. The solvents were pumped off in vacuo. The residue was flash chromatographed on silica gel (10 g) eluted with 0-10% MeOH/CH2Cl2 to give the title compound as an off-white amorphous solid. mp (dec) 203-207° C.; LC-MS m/z 507 (M+H)+, 1.76 min (ret. time).

reactant | N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide | 0.1 mmol, 0.054 g | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C2=CSC=C2)S(=O)C)=O | C25H19F2N5O3S2
reactant | methylamine | CN | CH5N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-{3-[8-(2,6-difluorophenyl)-2-(methylamino)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C2=CSC=C2)NC)=O | C25H20F2N6O2S
